US08134013B2
5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid piperidin-1-ylamide
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (29 mg, 0.1 mmol) in dimethyl sulfoxide (4.0 mL) was heated with 5-(hydrazinocarbonyl)thiophene-2-carboxylic acid piperidin-1-ylamide (27 mg, 0.1 mmol) prepared in Reference Synthetic Example 9 at 100° C. for 20 hours and allowed to cool to room temperature. 2 mL of water was added, and the precipitated solid was collected by filtration, washed with 1 mL of chloroform and dried to give 47 mg of the desired product (yield 87%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.1 mmol, 29 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 5-(hydrazinocarbonyl)thiophene-2-carboxylic acid piperidin-1-ylamide | 0.1 mmol, 27 mg | N1(CCCCC1)NC(=O)C=1SC(=CC1)C(=O)NN | C11H16N4O2S
reactant | water | 2 mL | O | H2O
solvent | dimethyl sulfoxide | 4.0 mL | CS(=O)C | C2H6OS
product | 5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid piperidin-1-ylamide | 47 mg, yield 87% | N1(CCCCC1)NC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC(=C(C=C1)Cl)Cl | C23H22Cl2N4O3S2
